US04550103
A solution of 1.82 g (10 mmol) 2-methyl-2,7-diazaspiro[4.4]nonane-1,3,8-trione in 20 ml N,N-dimethylformamide was added gradually under a nitrogen atmosphere to 0.050 g (10.4 mmol) of 50% oil suspension of sodium hydride which had been previously washed twice with toluene and covered with 10 ml N,N-dimethylformamide. After stirring one hour there was added 1.40 g (11 mmol) of benzyl chloride and stirring was continued overnight at room temperature. After concentrating to a small volume in vacuo, the residue was diluted with 40 ml water and extracted twice with dichloromethane. The combined organic phase was washed with water, dried over magnesium sulfate, and evaporated to give a solid. Crystallization from toluene-hexane to afford 1.74 g of 2-methyl-7-(phenylmethyl)-2,7-diazaspiro[4.4]nonane-1,3,8-trione, mp 157°-158° C.

reactant | 2-methyl-2,7-diazaspiro[4.4]nonane-1,3,8-trione | 10 mmol, 1.82 g | CN1C(C2(CC1=O)CNC(C2)=O)=O | C8H10N2O3
reactant | sodium hydride | [H-].[Na+]
reactant | benzyl chloride | 11 mmol, 1.40 g | C(C1=CC=CC=C1)Cl | C7H7Cl
solvent | N,N-dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
product | 2-methyl-7-(phenylmethyl)-2,7-diazaspiro[4.4]nonane-1,3,8-trione | 1.74 g | CN1C(C2(CC1=O)CN(C(C2)=O)CC2=CC=CC=C2)=O | C15H16N2O3
